US07504508B2
N-(4-aminophenyl)-N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide (H-45)
Benzyl (4-{acetyl[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]amino}phenyl)carbamate was dissolved in MeOH and was added a catalytic amount of Palladium on Carbon (10%). The system was purged by Hydrogen gas, the subjected to 1 atm of H2 for 2 h. The reaction was quenched with air and filtered to give the title compound as a white solid.

reactant | Benzyl (4-{acetyl[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]amino}phenyl)carbamate | C(C)(=O)N(C1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C34H33N3O5
solvent | MeOH | CO | CH4O
catalyst | Palladium on Carbon | [Pd] | Pd
product | N-(4-aminophenyl)-N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide | NC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C26H27N3O3
